* e:\project\esim_soc_marathon\snk\snk.cir

.include avsd_opamp.sub
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
* u48  nc1 rst net-_u48-pad3_ net-_u48-pad4_ net-_u48-pad5_ net-_u48-pad6_ nali_counter
* u18  net-_u18-pad1_ net-_u18-pad2_ nali_inverter
* u54  net-_u54-pad1_ net-_u54-pad2_ net-_u54-pad3_ net-_u54-pad4_ net-_u53-pad5_ net-_u53-pad6_ net-_u54-pad7_ nali_mux
* u53  net-_u52-pad5_ net-_u50-pad5_ net-_u51-pad5_ net-_u49-pad5_ net-_u53-pad5_ net-_u53-pad6_ nali_pe
* u52  net-_u48-pad3_ net-_u48-pad4_ net-_u48-pad5_ net-_u48-pad6_ net-_u52-pad5_ nali_and
* u46  nc2 rst net-_u46-pad3_ net-_u46-pad4_ net-_u46-pad5_ net-_u46-pad6_ nali_counter
* u50  net-_u46-pad3_ net-_u46-pad4_ net-_u46-pad5_ net-_u46-pad6_ net-_u50-pad5_ nali_and
* u47  nc3 rst net-_u47-pad3_ net-_u47-pad4_ net-_u47-pad5_ net-_u47-pad6_ nali_counter
* u51  net-_u47-pad3_ net-_u47-pad4_ net-_u47-pad5_ net-_u47-pad6_ net-_u51-pad5_ nali_and
* u45  nc4 rst net-_u45-pad3_ net-_u45-pad4_ net-_u45-pad5_ net-_u45-pad6_ nali_counter
* u49  net-_u45-pad3_ net-_u45-pad4_ net-_u45-pad5_ net-_u45-pad6_ net-_u49-pad5_ nali_and
* u55  sig1 sig2 sig3 sig4 net-_u54-pad1_ net-_u54-pad2_ net-_u54-pad3_ net-_u54-pad4_ adc_bridge_4
xsc16 sig1 net-_sc15-pad2_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc15 sig1 net-_sc15-pad2_ vdd vdd sky130_fd_pr__pfet_01v8_lvt 
xsc8 net-_sc15-pad2_ vin1 gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc7 net-_sc15-pad2_ vin1 vdd vdd sky130_fd_pr__pfet_01v8_lvt 
* u56  net-_u54-pad7_ out dac_bridge_1
* u57  out plot_v1
xsc14 sig2 net-_sc13-pad2_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc13 sig2 net-_sc13-pad2_ vdd vdd sky130_fd_pr__pfet_01v8_lvt 
xsc6 net-_sc13-pad2_ vin2 gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc5 net-_sc13-pad2_ vin2 vdd vdd sky130_fd_pr__pfet_01v8_lvt 
xsc12 sig3 net-_sc11-pad2_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc11 sig3 net-_sc11-pad2_ vdd vdd sky130_fd_pr__pfet_01v8_lvt 
xsc4 net-_sc11-pad2_ vin3 gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc3 net-_sc11-pad2_ vin3 vdd vdd sky130_fd_pr__pfet_01v8_lvt 
xsc10 sig4 net-_sc1-pad1_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc9 sig4 net-_sc1-pad1_ vdd vdd sky130_fd_pr__pfet_01v8_lvt 
xsc2 net-_sc1-pad1_ vin4 gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc1 net-_sc1-pad1_ vin4 vdd vdd sky130_fd_pr__pfet_01v8_lvt 
x6 vdd gnd vr1 sig1 out1 gnd avsd_opamp
x8 vdd gnd vr2 sig1 out2 gnd avsd_opamp
xsc23 vr1 vdd vdd sky130_fd_pr__res_generic_nd 
xsc26 vr2 vr1 vdd sky130_fd_pr__res_generic_nd 
xsc28 gnd vr2 vdd sky130_fd_pr__res_generic_nd 
* u28  out2 plot_v1
* u25  out1 plot_v1
v1 vdd gnd  dc 1
v2  vin1 gnd sine(1 1 0.2 0 0)
* s c m o d e
* u11  vr1 plot_v1
* u8  sig1 plot_v1
* u12  vr2 plot_v1
* u32  out1 out2 net-_u18-pad1_ net-_u20-pad1_ adc_bridge_2
* u36  net-_u18-pad2_ net-_u20-pad2_ nc1 d_and
* u41  nc1 wout1 dac_bridge_1
* u44  wout1 plot_v1
* u20  net-_u20-pad1_ net-_u20-pad2_ nali_inverter
* u16  net-_u16-pad1_ net-_u16-pad2_ nali_inverter
x4 vdd gnd vr3 sig2 out3 gnd avsd_opamp
x7 vdd gnd vr4 sig2 out4 gnd avsd_opamp
xsc21 vr3 vdd vdd sky130_fd_pr__res_generic_nd 
xsc24 vr4 vr3 vdd sky130_fd_pr__res_generic_nd 
xsc27 gnd vr4 vdd sky130_fd_pr__res_generic_nd 
* u27  out4 plot_v1
* u24  out3 plot_v1
* u9  vr3 plot_v1
* u5  sig2 plot_v1
* u10  vr4 plot_v1
* u31  out3 out4 net-_u16-pad1_ net-_u19-pad1_ adc_bridge_2
* u35  net-_u16-pad2_ net-_u19-pad2_ nc2 d_and
* u38  nc2 wout2 dac_bridge_1
* u42  wout2 plot_v1
* u19  net-_u19-pad1_ net-_u19-pad2_ nali_inverter
* u15  net-_u15-pad1_ net-_u15-pad2_ nali_inverter
x3 vdd gnd vr5 sig3 out5 gnd avsd_opamp
x5 vdd gnd vr6 sig3 out6 gnd avsd_opamp
xsc20 vr5 vdd vdd sky130_fd_pr__res_generic_nd 
xsc22 vr6 vr5 vdd sky130_fd_pr__res_generic_nd 
xsc25 gnd vr6 vdd sky130_fd_pr__res_generic_nd 
* u26  out6 plot_v1
* u23  out5 plot_v1
* u6  vr5 plot_v1
* u4  sig3 plot_v1
* u7  vr6 plot_v1
* u30  out5 out6 net-_u15-pad1_ net-_u17-pad1_ adc_bridge_2
* u34  net-_u15-pad2_ net-_u17-pad2_ nc3 d_and
* u40  nc3 wout3 dac_bridge_1
* u43  wout3 plot_v1
* u17  net-_u17-pad1_ net-_u17-pad2_ nali_inverter
* u13  net-_u13-pad1_ net-_u13-pad2_ nali_inverter
x1 vdd gnd vr7 sig4 out7 gnd avsd_opamp
x2 vdd gnd vr8 sig4 out8 gnd avsd_opamp
xsc17 vr7 vdd vdd sky130_fd_pr__res_generic_nd 
xsc18 vr8 vr7 vdd sky130_fd_pr__res_generic_nd 
xsc19 gnd vr8 vdd sky130_fd_pr__res_generic_nd 
* u22  out8 plot_v1
* u21  out7 plot_v1
* u2  vr7 plot_v1
* u1  sig4 plot_v1
* u3  vr8 plot_v1
* u29  out7 out8 net-_u13-pad1_ net-_u14-pad1_ adc_bridge_2
* u33  net-_u13-pad2_ net-_u14-pad2_ nc4 d_and
* u37  nc4 wout4 dac_bridge_1
* u39  wout4 plot_v1
* u14  net-_u14-pad1_ net-_u14-pad2_ nali_inverter
v3  vin2 gnd sine(1 1 1 0 0)
v4  vin3 gnd sine(1 1 0.5 0 0)
v5  vin4 gnd sine(1 1 0.25 0 0)
v6  net-_u58-pad1_ gnd pulse(5 0 1 0 0 40 40)
* u58  net-_u58-pad1_ rst adc_bridge_1
* u60  pe1 plot_v1
* u61  pe2 plot_v1
* u62  pe3 plot_v1
* u63  pe4 plot_v1
* u64  net-_u53-pad5_ net-_u53-pad6_ mux_s1 mux_s0 dac_bridge_2
* u59  net-_u52-pad5_ net-_u50-pad5_ net-_u51-pad5_ net-_u49-pad5_ pe1 pe2 pe3 pe4 dac_bridge_4
* u65  mux_s0 plot_v1
* u66  mux_s1 plot_v1
a1 [nc1 ] [rst ] [net-_u48-pad3_ net-_u48-pad4_ net-_u48-pad5_ net-_u48-pad6_ ] u48
a2 [net-_u18-pad1_ ] [net-_u18-pad2_ ] u18
a3 [net-_u54-pad1_ net-_u54-pad2_ net-_u54-pad3_ net-_u54-pad4_ ] [net-_u53-pad5_ net-_u53-pad6_ ] [net-_u54-pad7_ ] u54
a4 [net-_u52-pad5_ ] [net-_u50-pad5_ ] [net-_u51-pad5_ ] [net-_u49-pad5_ ] [net-_u53-pad5_ ] [net-_u53-pad6_ ] u53
a5 [net-_u48-pad3_ ] [net-_u48-pad4_ ] [net-_u48-pad5_ ] [net-_u48-pad6_ ] [net-_u52-pad5_ ] u52
a6 [nc2 ] [rst ] [net-_u46-pad3_ net-_u46-pad4_ net-_u46-pad5_ net-_u46-pad6_ ] u46
a7 [net-_u46-pad3_ ] [net-_u46-pad4_ ] [net-_u46-pad5_ ] [net-_u46-pad6_ ] [net-_u50-pad5_ ] u50
a8 [nc3 ] [rst ] [net-_u47-pad3_ net-_u47-pad4_ net-_u47-pad5_ net-_u47-pad6_ ] u47
a9 [net-_u47-pad3_ ] [net-_u47-pad4_ ] [net-_u47-pad5_ ] [net-_u47-pad6_ ] [net-_u51-pad5_ ] u51
a10 [nc4 ] [rst ] [net-_u45-pad3_ net-_u45-pad4_ net-_u45-pad5_ net-_u45-pad6_ ] u45
a11 [net-_u45-pad3_ ] [net-_u45-pad4_ ] [net-_u45-pad5_ ] [net-_u45-pad6_ ] [net-_u49-pad5_ ] u49
a12 [sig1 sig2 sig3 sig4 ] [net-_u54-pad1_ net-_u54-pad2_ net-_u54-pad3_ net-_u54-pad4_ ] u55
a13 [net-_u54-pad7_ ] [out ] u56
a14 [out1 out2 ] [net-_u18-pad1_ net-_u20-pad1_ ] u32
a15 [net-_u18-pad2_ net-_u20-pad2_ ] nc1 u36
a16 [nc1 ] [wout1 ] u41
a17 [net-_u20-pad1_ ] [net-_u20-pad2_ ] u20
a18 [net-_u16-pad1_ ] [net-_u16-pad2_ ] u16
a19 [out3 out4 ] [net-_u16-pad1_ net-_u19-pad1_ ] u31
a20 [net-_u16-pad2_ net-_u19-pad2_ ] nc2 u35
a21 [nc2 ] [wout2 ] u38
a22 [net-_u19-pad1_ ] [net-_u19-pad2_ ] u19
a23 [net-_u15-pad1_ ] [net-_u15-pad2_ ] u15
a24 [out5 out6 ] [net-_u15-pad1_ net-_u17-pad1_ ] u30
a25 [net-_u15-pad2_ net-_u17-pad2_ ] nc3 u34
a26 [nc3 ] [wout3 ] u40
a27 [net-_u17-pad1_ ] [net-_u17-pad2_ ] u17
a28 [net-_u13-pad1_ ] [net-_u13-pad2_ ] u13
a29 [out7 out8 ] [net-_u13-pad1_ net-_u14-pad1_ ] u29
a30 [net-_u13-pad2_ net-_u14-pad2_ ] nc4 u33
a31 [nc4 ] [wout4 ] u37
a32 [net-_u14-pad1_ ] [net-_u14-pad2_ ] u14
a33 [net-_u58-pad1_ ] [rst ] u58
a34 [net-_u53-pad5_ net-_u53-pad6_ ] [mux_s1 mux_s0 ] u64
a35 [net-_u52-pad5_ net-_u50-pad5_ net-_u51-pad5_ net-_u49-pad5_ ] [pe1 pe2 pe3 pe4 ] u59
* Schematic Name:                             nali_counter, NgSpice Name: nali_counter
.model u48 nali_counter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             nali_inverter, NgSpice Name: nali_inverter
.model u18 nali_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             nali_mux, NgSpice Name: nali_mux
.model u54 nali_mux(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             nali_pe, NgSpice Name: nali_pe
.model u53 nali_pe(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             nali_and, NgSpice Name: nali_and
.model u52 nali_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             nali_counter, NgSpice Name: nali_counter
.model u46 nali_counter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             nali_and, NgSpice Name: nali_and
.model u50 nali_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             nali_counter, NgSpice Name: nali_counter
.model u47 nali_counter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             nali_and, NgSpice Name: nali_and
.model u51 nali_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             nali_counter, NgSpice Name: nali_counter
.model u45 nali_counter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             nali_and, NgSpice Name: nali_and
.model u49 nali_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_4, NgSpice Name: adc_bridge
.model u55 adc_bridge(in_low=0.2 in_high=0.5 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u56 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u32 adc_bridge(in_low=0.2 in_high=0.5 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u36 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u41 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             nali_inverter, NgSpice Name: nali_inverter
.model u20 nali_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             nali_inverter, NgSpice Name: nali_inverter
.model u16 nali_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u31 adc_bridge(in_low=0.2 in_high=0.5 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u35 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u38 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             nali_inverter, NgSpice Name: nali_inverter
.model u19 nali_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             nali_inverter, NgSpice Name: nali_inverter
.model u15 nali_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u30 adc_bridge(in_low=0.2 in_high=0.5 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u34 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u40 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             nali_inverter, NgSpice Name: nali_inverter
.model u17 nali_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             nali_inverter, NgSpice Name: nali_inverter
.model u13 nali_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u29 adc_bridge(in_low=0.2 in_high=0.5 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u33 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u37 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             nali_inverter, NgSpice Name: nali_inverter
.model u14 nali_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u58 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u64 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_4, NgSpice Name: dac_bridge
.model u59 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.001e-00 40e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt

plot v(vin1)+12 v(vr1)+12 v(vr2)+12 v(sig1)+8 v(out1)+6 v(out2)+3 v(nc1)

plot v(vin2)+12 v(vr3)+12 v(vr4)+12 v(sig2)+8 v(out3)+6 v(out4)+3 v(nc2)

plot v(vin3)+12 v(vr5)+12 v(vr6)+12 v(sig3)+8 v(out5)+6 v(out6)+3 v(nc3)

plot v(vin4)+12 v(vr7)+12 v(vr8)+12 v(sig4)+8 v(out7)+6 v(out8)+3 v(nc4)

plot v(nc1) v(nc2) v(nc3) v(nc4) v(rst) v(pe1)+6 v(pe2)+11 v(pe3)+17 v(pe4)+23

plot v(pe1) v(pe2)+6 v(pe3)+12 v(pe4)+18 v(mux_s0)+24 v(mux_s1)+31

plot v(mux_s0)+1 v(mux_s1)+7 v(sig1)+13 v(sig2)+19 v(sig3)+26 v(sig4)+31 v(out)+37

.endc
.end
